US08236976B2
Preparation of (3-tert-Butyl-oxiranyl)-cyclohexyl-methanol (24)
The product was prepared by General procedure T using 98 mg (0.55 mmol) Cy2BH, 68 μL (0.55 mmol) 3,3-dimethyl-1-butyne, 0.78 mL (1.55 mmol, 2.0 M in hexanes) Et2Zn, 4.8 mg (0.02 mmol) (−)-MIB, 61 μL (0.50 mmol) cyclohexane carboxaldehyde, 100 μL (0.10 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 21 μL (0.10 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound in 74% yield (79 mg, 0.37 mmol). threo-diastereomer: White solid. m.p.: 48-50° C.; [α]D20=+70.7 (c=0.68, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.92 (s, 9H), 1.00-1.19 (m, 6H), 1.47 (m, 1H), 1.64-1.87 (m, 5H), 2.79 (d, 1H, J=2.1 Hz), 2.92 (t, 1H, J=2.5 Hz), and 3.57 (t, 1H, J=3.1 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 25.9, 26.0, 26.2, 26.5, 28.5, 28.8, 30.5, 41.8, 56.5, 6214, and 72.3 ppm; IR (KBr): 3392, 2922, 2853, 1643, 1449, 1391, 1363, 1262, 1245, and 1211 cm−1; HRMS-CI m/z 213.1865 [MH+; calcd for C13H25O2: 213.1855]. erythro-diastereomer: White solid. m.p.: 38-48° C.; [α]D20=−38.9 (c=0.27, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.92 (s, 9H), 1.03-1.28 (m, 6H), 1.66 (m, 1H), 1.73 (m, 3H), 1.89 (m, 2H), 2.67 (d, 1H, J=2.0 Hz), 2.87 (dd, 1H, J=5.4, 2.1 Hz), and 3.13 (m, 1H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 25.8, 26.0, 26.1, 26.4, 28.6, 28.8, 30.7, 42.2, 57.5, 65.0, and 75.9 ppm; IR (KBr): 3503, 2961, 2929, 2852, 1481, 1447, 1391, 1368, 1312, and 1284 cm−1; HRMS-CI m/z 213.1865 [MH+; calcd for C13H25O2: 213.1855].

reactant | Cy2BH | 0.55 mmol, 98 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 0.55 mmol, 68 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 1.55 mmol, 2.0 M, 0.78 mL | [Zn](CC)CC
reactant | cyclohexane carboxaldehyde | 0.50 mmol, 61 μL | C1(CCCCC1)C=O | C7H12O
reactant | (+)-DIPT | 0.10 mmol, 21 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.10 mmol, 1.0 M, 100 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (3-tert-Butyl-oxiranyl)-cyclohexyl-methanol | 74% yield | C(C)(C)(C)C1C(O1)C(O)C1CCCCC1 | C13H24O2
